US08791107B2
3-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-fluorobenzonitrile
The title compound was prepared in a manner similar to EXAMPLE 3 using 3-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-fluorobenzonitrile (PREPARATION x15, 73 mg, 0.203 mmol), PdCl2(dppf) (7.42 mg, 10.14 μmol) and 1H-indol-4-ylboronic acid (65.3 mg, 0.406 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.18-3.30 (m, 3H), 3.46-3.53 (m, 1H), 3.56-3.67 (m, 1H), 3.92-4.05 (m, 2H), 4.07-4.17 (m, 1H), 4.58-4.78 (m, 3H), 6.98-7.08 (m, 1H), 7.22-7.32 (m, 1H), 7.48-7.60 (m, 3H), 7.60-7.70 (m, 2H), 7.89-8.03 (m, 2H), 11.47-11.58 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H21FN6O, 441.18. found 441.3.

reactant | 3-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-fluorobenzonitrile | 0.203 mmol, 73 mg | ClC1=NC=2N3C(CN(C2C=N1)CC=1C=C(C#N)C=CC1F)COCC3 | C17H15ClFN5O
reactant | 1H-indol-4-ylboronic acid | 0.406 mmol, 65.3 mg | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 10.14 μmol, 7.42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-((2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-fluorobenzonitrile | N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)CC=1C=C(C#N)C=CC1F)COCC3 | C25H21FN6O
